US06225310B1
(S)-3-sec-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (257 mg, 1.0 mmol) and (S)-(+)-sec-butylamine (0.31 ml, 3.0 mmol) was stirred in 10 ml of abs ethanol for 4 days at 80° C. in a sealed flask. The cooled solution was concentrated in vacuo and the residue was stirred with water (10 ml) followed by adjustment to pH 2 with 4M hydrochloric acid. The initially formed gummy product was crystallized by stirring at 0° C. The precipitate was isolated by filtration, washed with water, and recrystallised from ethyl acetate/methanol followed by drying in vacuo at 30° C. over night to give 181 mg (62%) of the pure title compound; mp 228-230° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ0.88 (t, 3H, CH3), 1.14 (d, 3H, CH3), 1,49 (m, 2H, CH2), 3.68 (m, 1H, CH), 7.08 (s, 1H, H-5), 7.13 (br, 1H, NH), 10.73 (br s, 1H, NH); MS: m/e 293/295 (M+); (C9H12N3Cl1O2S2) calc. C, 36.79; H, 4.12; N, 14.30; found C, 36.9; H, 4.1; N, 14.2.

reactant | 3,6-dichloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 1.0 mmol, 257 mg | ClC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C5H2Cl2N2O2S2
reactant | (S)-(+)-sec-butylamine | 3.0 mmol, 0.31 ml | [C@H](C)(CC)N | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | (S)-3-sec-Butylamino-6-chloro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 181 mg, 62% | [C@H](C)(CC)NC1=NS(C2=C(N1)C=C(S2)Cl)(=O)=O | C9H12ClN3O2S2
